### PR TITLE
[Merged by Bors] - feat(GroupTheory/SpecificGroups/Coxeter) : Add Coxeter Systems and Coxeter Groups

### PR DESCRIPTION
**Pull request by newell**
Coxeter Systems and Coxeter Groups
---------------------------------------------------

This branch adds:

* `Matrix.IsCoxeter` :  A matrix `IsCoxeter` if it is a symmetric matrix with diagonal entries
  equal to one and off-diagonal entries distinct from one.
* `Matrix.CoxeterGroup` : The group defined by generators and relations according to a Coxeter matrix.
* `CoxeterSystem` : A structure recording the isomorphism between a group `W` and the group
  presentation corresponding to a Coxeter matrix, i.e. `Matrix.CoxeterGroup M`.
* `IsCoxeterGroup` : A group is a Coxeter group if it is registered in a Coxeter System.
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/GroupTheory/SpecificGroups/Coxeter.lean [hunk 1]
```diff
@@ -0,0 +1,357 @@
...
+  pages 13--15
+
+## Tags
+
+coxeter group basis, coxeter group
+-/
+
+noncomputable section
+
+variable {B : Type*} [DecidableEq B] [Fintype B] [HPow (FreeGroup B) ℕ∞ (FreeGroup B)]
```
Comment (joelriou) [inline Mathlib/GroupTheory/SpecificGroups/Coxeter.lean:50]: Bourbaki does not assume that `B` is finite.

Comment (joelriou) [inline Mathlib/GroupTheory/SpecificGroups/Coxeter.lean:50]: We cannot make such a `HPow` assumption. There are different ways to take this into account, but in mathlib, the convention (see `GroupTheory.OrderOfElement`) is that the order of an element of infinite order is zero.

File: Mathlib/GroupTheory/SpecificGroups/Coxeter.lean [hunk 2]
```diff
@@ -0,0 +1,357 @@
...
+
+end Relations
+
+end CoxeterGroup
+
+/-- The group presentation corresponding to a Coxeter matrix.
+
+Note that it is defined for any matrix of natural numbers. Its value for non-Coxeter
+matrices should be regarded as junk. `IsCoxeterGroup` checks that the matrix `IsCoxeter`. -/
+abbrev Matrix.ToCoxeterPresentation := PresentedGroup <| CoxeterGroup.Relations.toSet M
```
Comment (joelriou) [inline Mathlib/GroupTheory/SpecificGroups/Coxeter.lean:84]: `CoxeterGroup` is a better name than `ToCoxeterPresentation`: `PresentedGroup` is a type, the type of elements in the group given by the presentation...

File: Mathlib/GroupTheory/SpecificGroups/Coxeter.lean [hunk 3]
```diff
@@ -0,0 +1,355 @@
...
+
+/-- A Coxeter group basis `CoxeterGroupBasis W` is a structure recording the isomorphism between
+a group `W` and the group presentation corresponding to a Coxeter matrix. Equivalently, this can
+be seen as a list of generators of `W` parameterized by the underlying type of `M`, which
+satisfy the relations of the Coxeter matrix `M`. -/
+structure CoxeterGroupBasis (W : Type*) [Group W] where
```
Comment (joelriou) [inline Mathlib/GroupTheory/SpecificGroups/Coxeter.lean:90]: It seems that `CoxeterSystem` would be a better name.

File: Mathlib/GroupTheory/SpecificGroups/Coxeter.lean [hunk 4]
```diff
@@ -0,0 +1,377 @@
...
+## Tags
+
+coxeter system, coxeter group
+-/
+
+noncomputable section
+
+variable {B : Type*} [DecidableEq B]
+
+variable (M : Matrix B B ℕ∞)
```
Comment (joelriou) [inline Mathlib/GroupTheory/SpecificGroups/Coxeter.lean:53]:
```suggestion
variable (M : Matrix B B ℕ)
```
In a Coxeter group, we may want to be able to state that the order of $s_i s_j$ is $M_{i, j}$ regardless whether the order is finite or not. Then, as in mathlib `orderOf` of an element of infinite order is `0`, I would suggest using `ℕ` instead of `ℕ∞`, but then the `off_diagonal` condition should be changed saying `M i j ≠ 1` instead, and a comment about this should be made in the docstring of `Matrix.IsCoxeter`.

File: Mathlib/GroupTheory/SpecificGroups/Coxeter.lean [hunk 5]
```diff
@@ -0,0 +1,377 @@
...
+
+variable (B)
```
Comment (joelriou) [inline Mathlib/GroupTheory/SpecificGroups/Coxeter.lean:55]:
```suggestion
variable {B}
```
The type `B` can be inferred automatically in the definition of `IsCoxeter`.

File: Mathlib/GroupTheory/SpecificGroups/Coxeter.lean [hunk 6]
```diff
@@ -0,0 +1,377 @@
...
+
+/-- A matrix `IsCoxeter` if it is a symmetric matrix with ones on the diagonal
+and off-diagonal elements are greater than or equal to two. -/
+class Matrix.IsCoxeter (M : Matrix B B ℕ∞) : Prop where
+  symmetric : M.IsSymm
+  diagonal : ∀ i j : B, i = j → M i j = 1
+  off_diagonal : ∀ i j : B, i ≠ j → 2 ≤ M i j
```
Comment (joelriou) [inline Mathlib/GroupTheory/SpecificGroups/Coxeter.lean:62]:
```suggestion
  symmetric : M.IsSymm := by aesop
  diagonal : ∀ i j : B, i = j → M i j = 1 := by aesop
  off_diagonal : ∀ i j : B, i ≠ j → 2 ≤ M i j := by aesop
```

File: Mathlib/GroupTheory/SpecificGroups/Coxeter.lean [hunk 7]
```diff
@@ -0,0 +1,377 @@
...
+
+/-- The Coxeter matrix of family Aₙ.
+
+The corresponding Coxeter-Dynkin diagram is:
+```
+    o --- o --- o ⬝ ⬝ ⬝ ⬝ o --- o
+```
+-/
+def Aₙ : Matrix (Fin n) (Fin n) ℕ∞ :=
+  Matrix.of AₙAux
```
Comment (joelriou) [inline Mathlib/GroupTheory/SpecificGroups/Coxeter.lean:123]: There is no need for auxiliary definitions here. I am not completely sure what is the mathlib practice for the definition of matrices, but if you do `abbrev Aₙ : Matrix (Fin n) (Fin n) ℕ := ...`, then the proof of `IsCoxeter` will be automatic. I think that `Aₙ` (better name `A`) should take `n` as an explicit parameter rather than an implicit one.

File: Mathlib/GroupTheory/SpecificGroups/Coxeter.lean [hunk 8]
```diff
@@ -0,0 +1,377 @@
...
+
+theorem AₙIsCoxeter : Aₙ.IsCoxeter (Fin n) where
```
Comment (joelriou) [inline Mathlib/GroupTheory/SpecificGroups/Coxeter.lean:125]: This should be an `instance`, not a `theorem`.

File: Mathlib/GroupTheory/SpecificGroups/Coxeter.lean (hunk 6 above)
Comment (joelriou) [reply Mathlib/GroupTheory/SpecificGroups/Coxeter.lean:62]: Actually, `diagonal` should be `∀ i : B, M i i = 1`

File: Mathlib/GroupTheory/SpecificGroups/Coxeter.lean (hunk 4 above)
Comment (newell) [reply Mathlib/GroupTheory/SpecificGroups/Coxeter.lean:53]: Actually, I think `ℕ+` would be better, no?

Comment (newell) [reply Mathlib/GroupTheory/SpecificGroups/Coxeter.lean:53]: Also, here  you say `M i j ≠ 1` but below in your other comment you have `off_diagonal : ∀ i j : B, i ≠ j → 2 ≤ M i j := by aesop`, so I am confused what you really are wanting here.

File: Mathlib/GroupTheory/SpecificGroups/Coxeter.lean (hunk 6 above)
Comment (newell) [reply Mathlib/GroupTheory/SpecificGroups/Coxeter.lean:62]: > Doing so, if the definitions are set up correctly, we do not need to provide any proof as lean will automatically try `aesop`.

I am not sure what you meant by 'not providing any proof' but I assume you mean we wouldn't need to provide proofs for the `instance`s?

I wasn't able to prove `IsCoxeter` by using for `aesop` for the all the matrices I have.  I was able to find proofs, but not using just `aesop`.

Comment (newell) [reply Mathlib/GroupTheory/SpecificGroups/Coxeter.lean]: I pushed what I currently have so at least you can see most of the changes you were mentioning above (still not sure on the `instance`s).

File: Mathlib/GroupTheory/SpecificGroups/Coxeter.lean (hunk 4 above)
Comment (joelriou) [reply Mathlib/GroupTheory/SpecificGroups/Coxeter.lean]: I had two independant suggestions : 1) add `by aesop` 2) `M i j ≠ 1`.

Could you give a *detailed* explanation why `ℕ+` would be better?

File: Mathlib/GroupTheory/SpecificGroups/Coxeter.lean (hunk 6 above)
Comment (joelriou) [reply Mathlib/GroupTheory/SpecificGroups/Coxeter.lean]: If we use  `ℕ` instead of `ℕ+`, for `A_n`, we only need the following code:
```lean
instance AₙIsCoxeter : IsCoxeter (Aₙ n) where
```

File: Mathlib/GroupTheory/SpecificGroups/Coxeter.lean (hunk 4 above)
Comment (newell) [reply Mathlib/GroupTheory/SpecificGroups/Coxeter.lean]: Well if we were going to do a combination of `M i j ≠ 1` and `Nat`, then technically the identity matrix would be a Coxeter matrix, which isn't true.  That is, all diagonal elements would be equal to 1 and the off diagonal elements would not be equal to 1, which we don't want.  If we are going to go with `Nat` then I think we should keep the `off_diagonal : ∀ i j : B, i ≠ j → 2 ≤ M i j` as this doesn't allow the off diagonal elements to be zero.

Comment (joelriou) [reply Mathlib/GroupTheory/SpecificGroups/Coxeter.lean]: Again, Bourbaki allows elements on infinite order (which in mathlib are considered of order `0`)...

File: Mathlib/GroupTheory/SpecificGroups/Coxeter.lean [hunk 9]
```diff
@@ -0,0 +1,311 @@
...
+  off_diagonal : ∀ i j : B, i ≠ j → M i j ≠ 1 := by aesop
+
+namespace CoxeterGroup
+
+namespace Relations
+
+/-- The relation terms corresponding to a Coxeter matrix. -/
+def ofMatrix : B × B → FreeGroup B :=
+  Function.uncurry fun i j =>
+    (FreeGroup.of i * FreeGroup.of j) ^ orderOf (M i j)
```
Comment (joelriou) [inline Mathlib/GroupTheory/SpecificGroups/Coxeter.lean:69]: The relation is not right.

File: Mathlib/GroupTheory/SpecificGroups/Coxeter.lean [hunk 10]
```diff
@@ -0,0 +1,311 @@
...
+  /-- `CoxeterSystem.ofRepr` constructs a Coxeter system given an equivalence with the group
+  presentation corresponding to a Coxeter matrix `M`. -/
+  ofRepr ::
+    /-- `repr` is the isomorphism between the group `W` and the group presentation
+    corresponding to a Coxeter matrix `M`. -/
+    repr : Matrix.CoxeterGroup M ≃* W
+
+/-- A group is a Coxeter group if it is registered in a Coxeter System. -/
+class IsCoxeterGroup (W : Type*) [Group W] : Prop where
+  nonempty_system : ∃ (M : Matrix B B ℕ), M.IsCoxeter ∧ Nonempty (CoxeterSystem M W)
```
Comment (joelriou) [inline Mathlib/GroupTheory/SpecificGroups/Coxeter.lean:99]: There should be `∃ B` in the condition.

File: Mathlib/GroupTheory/SpecificGroups/Coxeter.lean [hunk 11]
```diff
@@ -0,0 +1,311 @@
...
+a group `W` and the group presentation corresponding to a Coxeter matrix. Equivalently, this can
+be seen as a list of generators of `W` parameterized by the underlying type of `M`, which
+satisfy the relations of the Coxeter matrix `M`. -/
+structure CoxeterSystem (W : Type*) [Group W] where
+  /-- `CoxeterSystem.ofRepr` constructs a Coxeter system given an equivalence with the group
+  presentation corresponding to a Coxeter matrix `M`. -/
+  ofRepr ::
+    /-- `repr` is the isomorphism between the group `W` and the group presentation
+    corresponding to a Coxeter matrix `M`. -/
+    repr : Matrix.CoxeterGroup M ≃* W
```
Comment (joelriou) [inline Mathlib/GroupTheory/SpecificGroups/Coxeter.lean:95]: `mulEquiv` and `ofMulEquiv` would be better names than `repr` and `ofRepr`.

File: Mathlib/GroupTheory/SpecificGroups/Coxeter.lean [hunk 12]
```diff
@@ -0,0 +1,311 @@
...
+  symmetric : M.IsSymm := by aesop
+  diagonal : ∀ i : B, M i i = 1 := by aesop
+  off_diagonal : ∀ i j : B, i ≠ j → M i j ≠ 1 := by aesop
+
+namespace CoxeterGroup
+
+namespace Relations
+
+/-- The relation terms corresponding to a Coxeter matrix. -/
+def ofMatrix : B × B → FreeGroup B :=
```
Comment (joelriou) [inline Mathlib/GroupTheory/SpecificGroups/Coxeter.lean:67]: The assumption `[M.IsCoxeter]` should be made here, or at the very least for the definition of `Matrix.CoxeterGroup`, because we do not want to consider the presented group `M.CoxeterGroup` unless we know that `M` satisfies the expected conditions.

File: Mathlib/GroupTheory/SpecificGroups/Coxeter.lean [hunk 13]
```diff
@@ -0,0 +1,311 @@
...
+variable (n : ℕ)
+
+/-- The Coxeter matrix of family A(n).
+
+The corresponding Coxeter-Dynkin diagram is:
+```
+    o --- o --- o ⬝ ⬝ ⬝ ⬝ o --- o
+```
+-/
+abbrev Aₙ : Matrix (Fin n) (Fin n) ℕ :=
```
Comment (joelriou) [inline Mathlib/GroupTheory/SpecificGroups/Coxeter.lean:114]: I think we need the assumption `[NeZero n]` here.

**Review by joelriou — CHANGES_REQUESTED** [review]

File: Mathlib/GroupTheory/SpecificGroups/Coxeter.lean (hunk 12 above)
Comment (newell) [reply Mathlib/GroupTheory/SpecificGroups/Coxeter.lean:67]: When I tried adding it to those definitions in different combinations, non of the them would pass the linter.  I was able to get it to pass the linter when adding `[M.IsCoxeter]` to both `CoxeterSystem` and `IsCoxeterGroup`.  Although this isn't as ideal as making the constraint on `Matrix.CoxeterGroup` it was the best that I was able to figure out where at least `CoxeterSystem` and `IsCoxeterGroup` both need the matrix to be a Coxeter matrix.

Do you know of another way of doing it better than this by adding `[M.IsCoxeter]` to the defintions somehow which would get past the linter?  After the code compiles and I save the file I do `lake build && lake exe runMathlibLinter Mathlib.GroupTheory.SpecificGroups.Coxeter` to run the linter.

Comment (joelriou) [reply Mathlib/GroupTheory/SpecificGroups/Coxeter.lean:67]: This is a case where it is reasonable to circumvent the `unusedArguments` linter. I think you can do
```lean
@[nolint unusedArguments]
def ofMatrix [M.IsCoxeter] : B × B → FreeGroup B :=
```
and similarly for the other definitions which may require it.

File: Mathlib/GroupTheory/SpecificGroups/Coxeter.lean [hunk 14]
```diff
@@ -0,0 +1,311 @@
...
+
+Note that it is defined for any matrix of natural numbers. Its value for non-Coxeter
+matrices should be regarded as junk. `IsCoxeterGroup` checks that the matrix `IsCoxeter`. -/
+abbrev Matrix.CoxeterGroup := PresentedGroup <| CoxeterGroup.Relations.toSet M
+
+/-- A Coxeter System `CoxeterSystem W` is a structure recording the isomorphism between
+a group `W` and the group presentation corresponding to a Coxeter matrix. Equivalently, this can
+be seen as a list of generators of `W` parameterized by the underlying type of `M`, which
+satisfy the relations of the Coxeter matrix `M`. -/
+structure CoxeterSystem (W : Type*) [Group W] where
```
Comment (joelriou) [inline Mathlib/GroupTheory/SpecificGroups/Coxeter.lean:89]: After this definition, you should define `Matrix.coxeterSystemCoxeterGroup` which would say that there is a Coxeter system of type `M` on the group `M.CoxeterGroup` (with the identity isomorphism).

File: Mathlib/GroupTheory/SpecificGroups/Coxeter.lean [hunk 15]
```diff
@@ -0,0 +1,311 @@
...
+  /-- `CoxeterSystem.ofRepr` constructs a Coxeter system given an equivalence with the group
+  presentation corresponding to a Coxeter matrix `M`. -/
+  ofRepr ::
+    /-- `repr` is the isomorphism between the group `W` and the group presentation
+    corresponding to a Coxeter matrix `M`. -/
+    repr : Matrix.CoxeterGroup M ≃* W
+
+/-- A group is a Coxeter group if it is registered in a Coxeter System. -/
+class IsCoxeterGroup (W : Type*) [Group W] : Prop where
```
Comment (joelriou) [inline Mathlib/GroupTheory/SpecificGroups/Coxeter.lean:98]: After this definition, you should provide a lemma in the `CoxeterSystem` namespace saying that the group is a Coxeter group, and also an instance saying that `M.CoxeterGroup` is a Coxeter group.

File: Mathlib/GroupTheory/SpecificGroups/Coxeter.lean (hunk 10 above)
Comment (newell) [reply Mathlib/GroupTheory/SpecificGroups/Coxeter.lean]: I added the suggestions you had below in the branch I just pushed but in regards to the existential quantifiers, I think taking them out simplifies it as the class parameters will still require a proof of a correctly typed matrix to be supplied (but maybe there is a more desirable reason to require them that I am not foreseeing).

File: Mathlib/GroupTheory/SpecificGroups/Coxeter.lean [hunk 16]
```diff
@@ -0,0 +1,326 @@
...
+  diagonal : ∀ i : B, M i i = 1 := by aesop
+  off_diagonal : ∀ i j : B, i ≠ j → M i j ≠ 1 := by aesop
+
+namespace CoxeterGroup
+
+namespace Relations
+
+/-- The relations corresponding to a Coxeter matrix. -/
+@[nolint unusedArguments]
+def ofMatrix [M.IsCoxeter] : B × B → FreeGroup B :=
```
Comment (sgouezel) [inline Mathlib/GroupTheory/SpecificGroups/Coxeter.lean:68]: Can you remove the assumption `[M.IsCoxeter]` from this definition and the next ones, when it plays no role? Typically, in definitions, try to minimize the assumptions, and only put these in theorems.

File: Mathlib/GroupTheory/SpecificGroups/Coxeter.lean [hunk 17]
```diff
@@ -0,0 +1,326 @@
...
+    /-- `mulEquiv` is the isomorphism between the group `W` and the group presentation
+    corresponding to a Coxeter matrix `M`. -/
+    mulEquiv : Matrix.CoxeterGroup M ≃* W
+
+/-- Coxeter system of type `M` on the group `M.CoxeterGroup`. -/
+def Matrix.coxeterSystemCoxeterGroup [M.IsCoxeter] : CoxeterSystem M M.CoxeterGroup :=
+  CoxeterSystem.ofMulEquiv (MulEquiv.refl (CoxeterGroup M))
+
+/-- A group is a Coxeter group if it is registered in a Coxeter system. -/
+class IsCoxeterGroup [M.IsCoxeter] (W : Type*) [Group W] : Prop where
```
Comment (sgouezel) [inline Mathlib/GroupTheory/SpecificGroups/Coxeter.lean:100]: This definition should rather be: there exists `B : Type`, there exists `M : Matrix B B ℕ`, such that `IsCoxeter M` and `Nonempty (CoxeterSystem M W)`.

File: Mathlib/GroupTheory/SpecificGroups/Coxeter.lean [hunk 18]
```diff
@@ -0,0 +1,326 @@
...
+variable (n : ℕ)
+
+/-- The Coxeter matrix of family A(n).
+
+The corresponding Coxeter-Dynkin diagram is:
+```
+    o --- o --- o ⬝ ⬝ ⬝ ⬝ o --- o
+```
+-/
+abbrev Aₙ [NeZero n] : Matrix (Fin n) (Fin n) ℕ :=
```
Comment (sgouezel) [inline Mathlib/GroupTheory/SpecificGroups/Coxeter.lean:129]: Why do you need `[NeZero n]` here and below?

File: Mathlib/GroupTheory/SpecificGroups/Coxeter.lean (hunk 16 above)
Comment (newell) [reply Mathlib/GroupTheory/SpecificGroups/Coxeter.lean:68]: It was suggested that I add this in a previous review.  See next comment below as well.

File: Mathlib/GroupTheory/SpecificGroups/Coxeter.lean (hunk 17 above)
Comment (newell) [reply Mathlib/GroupTheory/SpecificGroups/Coxeter.lean:100]: If you look back in the commit history I had what you are stating except for the existential quantifier on `B`.  It was then suggested to me in a previous code review that we should be having `[M.IsCoxeter]` for the definitions, so that is why I moved things around.  What is the consensus from the reviewers on this?

File: Mathlib/GroupTheory/SpecificGroups/Coxeter.lean (hunk 18 above)
Comment (newell) [reply Mathlib/GroupTheory/SpecificGroups/Coxeter.lean:129]: I don't need it for `Aₙ` but I do need it for `Bₙ` and `Dₙ` the way they are defined since using `Fin n` and when this is removed the error is:
```
failed to synthesize instance
  OfNat (Fin n)
```

File: Mathlib/GroupTheory/SpecificGroups/Coxeter.lean (hunk 16 above)
Comment (joelriou) [reply Mathlib/GroupTheory/SpecificGroups/Coxeter.lean:68]: I said it was important to have the assumption `[M.IsCoxeter]` the definition of `Matrix.CoxeterGroup`, because we do not want to consider `M.CoxeterGroup` for a junk matrix. For the definitions in the section `CoxeterGroup.Relations`, it is more a matter of taste; you may certainly follow @sgouezel suggestion.

File: Mathlib/GroupTheory/SpecificGroups/Coxeter.lean (hunk 17 above)
Comment (joelriou) [reply Mathlib/GroupTheory/SpecificGroups/Coxeter.lean:100]: No, I did the exact same suggestion as @sgouezel!

File: Mathlib/GroupTheory/SpecificGroups/Coxeter.lean (hunk 18 above)
Comment (newell) [reply Mathlib/GroupTheory/SpecificGroups/Coxeter.lean:129]: I don't actually, I figured out a way to get past the errors for `Bₙ` and `Dₙ` by casting 1 to `(1 : ℕ)`.

File: Mathlib/GroupTheory/SpecificGroups/Coxeter.lean (hunk 17 above)
Comment (newell) [reply Mathlib/GroupTheory/SpecificGroups/Coxeter.lean:100]: I was referring to the [`M.IsCoxeter]`.  I wasn't implying that you were not suggesting the same thing with `∃ B`, because you did suggest that as well.  I shouldn't have bundled the comments together as I did, since it caused some miscommunication on my part.

File: Mathlib/GroupTheory/SpecificGroups/Coxeter.lean (hunk 16 above)
Comment (sgouezel) [reply Mathlib/GroupTheory/SpecificGroups/Coxeter.lean:68]: I am very strongly in favor of your second proposal. There is just something fishy with universes -- there is no reason why `B` and `W` should be in the same universe. In the definition of `IsCoxeterGroup`, I would require `B` to be in `Type u`, as you do, but then I would prove a lemma saying that if you have a Coxeter system in `Type v`, then you can also build one in `Type u`, so that your group indeed satisfies `IsCoxeterGroup`. 

You can see how this is done for the free group in https://github.com/leanprover-community/mathlib4/blob/master/Mathlib/GroupTheory/FreeGroup/IsFreeGroup.lean, where the definition `IsFreeGroup` requires a basis in the same universe as the group, but the lemma `isFreeGroup` says that, if you have a basis in any universe, then your group satisfies `IsFreeGroup`.

Comment (newell) [reply Mathlib/GroupTheory/SpecificGroups/Coxeter.lean:68]: > I am very strongly in favor of your second proposal. There is just something fishy with universes -- there is no reason why `B` and `W` should be in the same universe. In the definition of `IsCoxeterGroup`, I would require `B` to be in `Type u`, as you do, but then I would prove a lemma saying that if you have a Coxeter system in `Type v`, then you can also build one in `Type u`, so that your group indeed satisfies `IsCoxeterGroup`.
> 
> You can see how this is done for the free group in https://github.com/leanprover-community/mathlib4/blob/master/Mathlib/GroupTheory/FreeGroup/IsFreeGroup.lean, where the definition `IsFreeGroup` requires a basis in the same universe as the group, but the lemma `isFreeGroup` says that, if you have a basis in any universe, then your group satisfies `IsFreeGroup`.

@sgouezel Okay, so I took a look at the link above and what you mentioned and started playing with trying to get it to work but having some issues following what you did.  I haven't figured out how to make it work with this extra *layer of matrix* that I have.  Nor how I would then show that this matrix must be `IsCoxeter`.  From what it seems I will need the signatures to be:

```
namespace CoxeterSystem

variable {B B' W : Type*} [Group W]

variable {M : Matrix B B ℕ} {M' : Matrix B' B' ℕ}

instance funLike : FunLike (CoxeterSystem M W) (Matrix B B ℕ) (fun _ => W) :=  sorry

protected def reindex (cs : CoxeterSystem M W) (e : Matrix B B ℕ ≃ Matrix B' B' ℕ) : 
        CoxeterSystem M' W := sorry

protected lemma injective (cs : CoxeterSystem M W) : Function.Injective cs := sorry

lemma isCoxeterGroup (cs : CoxeterSystem M W) : IsCoxeterGroup W :=
        ⟨Set.range cs, sorry, ⟨sorry, sorry⟩⟩

end CoxeterSystem
```

does this seem to be headed in the *general* direction?   I am not completely confident these signatures are the way they should be. For the signatures above, I am currently hung up on how to construct the matrix for the existential in `isCoxeterGroup` so if you have any advice on how to do that properly I am keen to hear it.

Comment (sgouezel) [reply Mathlib/GroupTheory/SpecificGroups/Coxeter.lean:68]: Instead of your `e`, I would use an equiv between `B` and `B'`. With this equiv, you can reindex your matrix `M : Matrix B B ℕ` to get a matrix `Matrix B' B' ℕ`, and this matrix will be Coxeter (it's a copy of the original matrix, after all!)

Comment (newell) [reply Mathlib/GroupTheory/SpecificGroups/Coxeter.lean]: @sgouezel I finally got some time to work on this a bit again after being away.  I just pushed what I currently have but was hoping you could take a quick look and give me your opinion if you think the direction I am going seems okay?  I am mostly following what is done in `IsFreeGroup`.  One of the things I am uncertain of is how to show the map is injective.  When taking a look at how `FreeGroup.of_injective` does it, it seems like I should be able to do something similar since, in theory, `FreeGroup` is a `Quot` after all, but I am unfamiliar with the details still so this may be an ill assumption.  If you know of an easier way to prove this, I am all ears.  In regards to the other proof still left over I think using `QuotienGroup.congr` seems right(?) and still working through the details to show that there should be some map connecting the normal closures of the relations for `B` and `B'`.

Comment (sgouezel) [reply Mathlib/GroupTheory/SpecificGroups/Coxeter.lean]: It seems to me there are some missing lemmas about presented groups: the first thing to prove is that, if you have an equiv `e` between two types alpha and beta, and relations inside alpha, then the group they define is isomorphic to the group defined by these relations pushed by `e` in beta (and moreover the isomorphism, in some sense, lifts `e`). Does that make sense? Then what you need for Coxeter groups should be a particular case of this one.

Comment (newell) [reply Mathlib/GroupTheory/SpecificGroups/Coxeter.lean]: This makes sense and hopefully I can find a proof for this when I get some more time to work on this in a couple weeks to push this PR over the line.  Thanks for the feedback!

File: Mathlib/GroupTheory/SpecificGroups/Coxeter.lean [hunk 19]
```diff
@@ -0,0 +1,419 @@
...
+def toSet : Set (FreeGroup B) :=
+  Set.range <| ofMatrix M
+
+end Relations
+
+end CoxeterGroup
+
+/-- The group presentation corresponding to a Coxeter matrix. -/
+@[simp]
+def Matrix.CoxeterGroup := PresentedGroup <| CoxeterGroup.Relations.toSet M
```
Comment (eric-wieser) [inline Mathlib/GroupTheory/SpecificGroups/Coxeter.lean:83]: Using `simp` on a type is pretty weird. I think you probably want
```suggestion
abbrev Matrix.CoxeterGroup := PresentedGroup <| CoxeterGroup.Relations.toSet M
```

Comment (newell) [reply Mathlib/GroupTheory/SpecificGroups/Coxeter.lean:83]: @eric-wieser  A previous reviewer suggested I use `def` instead of `abbrev` but I will look at removing the `simp`.

File: Mathlib/GroupTheory/SpecificGroups/Coxeter.lean (hunk 16 above)
Comment (newell) [reply Mathlib/GroupTheory/SpecificGroups/Coxeter.lean]: @sgouezel I haven't been able to figure out how to "lift" the equivalence of the types correctly within the isomorphism.  The below code compiles if you copy and paste it above `end ToGroup` in `PresentedGroup.lean`.

```
@[simp]
def relationsEquiv (e : α ≃ β) : Set (FreeGroup α) ≃ Set (FreeGroup β) :=
  Equiv.Set.congr (FreeGroup.freeGroupCongr e).toEquiv

lemma relationsNormalClosureMap (e : α ≃ β) :
    (Subgroup.normalClosure rels).map (FreeGroup.freeGroupCongr e) =
    (Subgroup.normalClosure (relationsEquiv e rels)) := by
  ext b
  simp only [Subgroup.mem_map, MonoidHom.coe_coe, relationsEquiv]
  constructor
  · rintro ⟨a, ha, hx⟩
    apply Subgroup.subset_normalClosure
    use a
    constructor
    · sorry
    · exact hx
  · sorry

def relationsMulEquiv (e : α ≃ β) : PresentedGroup rels ≃* PresentedGroup (relationsEquiv e rels) :=
  QuotientGroup.congr (Subgroup.normalClosure rels) (Subgroup.normalClosure (relationsEquiv e rels))
    (FreeGroup.freeGroupCongr e) (relationsNormalClosureMap e)
```

`relationsNormalClosureMap` is what is needed but maybe there is a better way of going about this that you could help point me to?  That, or maybe I am on the right track but just need to be more clever with regards to how I am choosing `use a`?  Not really sure what to do at this point.

**Comment by newell** [comment]
I am frustrated as I have not been able to find proofs for the desired API additions that were discussed in the conversation above.  I would like some help on this branch for the items below if possible as I have not been able to make any decent progress.  

1. I haven't been able to figure out how to "lift" the type equivalence in the isomorphism `coxeterGroupCongr`.  I tried proving this more generally in `PresentedGroup.lean` but either way, whether trying to do it all in `coxeterGroupCongr` or with API additions in `PresentedGroup.lean`, I still haven't been able to get a proof.
2. The current proof I have of `isCoxeterGroup` relies on `sorry`d `presentedGroup.of_injective` but looking at this closer I don't think that this will ever be injective with a non-trivial normal subgroup so I don't think I will be able to use the argument of proof that I have for `isCoxeterGroup`.

There is also the option of putting the API additions in a separate PR and just having the definitions in this PR.  This would at least get things moving along and into Mathlib so that other more knowledgeable people than myself can work on it if they desire.

Any suggestions/comments/guidance appreciated.

File: Mathlib/GroupTheory/SpecificGroups/Coxeter.lean (hunk 19 above)
Comment (eric-wieser) [reply Mathlib/GroupTheory/SpecificGroups/Coxeter.lean:83]: Can you link to the discussion?

File: Mathlib/GroupTheory/SpecificGroups/Coxeter.lean [hunk 20]
```diff
@@ -0,0 +1,419 @@
...
+
+The corresponding Coxeter-Dynkin diagram is:
+```
+    o --- o --- o ⬝ ⬝ ⬝ ⬝ o --- o
+```
+-/
+abbrev Aₙ : Matrix (Fin n) (Fin n) ℕ :=
+  Matrix.of fun i j : Fin n =>
+    if i == j then 1
+      else (if i == n - 1 ∨ j == n - 1 then 2 else 3)
```
Comment (eric-wieser) [inline Mathlib/GroupTheory/SpecificGroups/Coxeter.lean:225]:
```suggestion
    if i = j then 1
      else (if i = n - 1 ∨ j = n - 1 then 2 else 3)
```

Comment (eric-wieser) [reply Mathlib/GroupTheory/SpecificGroups/Coxeter.lean:225]: (and throughout)

File: Mathlib/GroupTheory/SpecificGroups/Coxeter.lean (hunk 19 above)
Comment (newell) [reply Mathlib/GroupTheory/SpecificGroups/Coxeter.lean:83]: @eric-wieser  [here](https://github.com/leanprover-community/mathlib4/pull/8223#discussion_r1393752877)

File: Mathlib/GroupTheory/SpecificGroups/Coxeter.lean (hunk 16 above)
Comment (newell) [reply Mathlib/GroupTheory/SpecificGroups/Coxeter.lean]: @sgouezel I added `equivCoxeterGroup` to the current branch which is based on #9185 and #9403 

However, I am still stuck at trying to prove `Injective cs`.  With what I currently have, I would need to show that `Injective (PresentedGroup.of (rels := CoxeterGroup.Relations.toSet M)`  I was looking over mathlib and trying to find some inspiration, which I did with the ping pong lemma in `CoprodI.lean` which shows that `Injective (FreeGroup \alpha ->* G)` but it has many assumptions (disjoint etc) so I am unsure if it would be applicable for Coxeter groups.  Other than that, I am wondering if I need to do something similar to `FreeGroup \alpha` in that the word reductions for the Coxeter groups are what would make the hom injective?  

Any suggestions?

File: Mathlib/GroupTheory/SpecificGroups/Coxeter.lean [hunk 21]
```diff
@@ -0,0 +1,461 @@
...
+This file defines Coxeter systems and Coxeter groups.
+
+A Coxeter system is a pair `(W, S)` where `W` is a group generated by a set of
+reflections (involutions) `S = {s₁,s₂,...,sₙ}`, subject to relations determined
+by a Coxeter matrix `M = (mᵢⱼ)`.  The Coxeter matrix is a symmetric matrix with entries
+`mᵢⱼ` representing the order of the product `sᵢsⱼ` for `i ≠ j` and `mᵢᵢ = 1`.
+
+When `(W, S)` is a Coxeter system, one also says, by abuse of language, that `W` is a
+Coxeter group.  Coxeter group `W` is defined by the presentation
+`W = ⟨s₁,s₂,...,sₙ | ∀ i j, (sᵢsⱼ)^mᵢⱼ = 1⟩`, where `1` is the identity element of `W`.
```
Comment (jcommelin) [inline Mathlib/GroupTheory/SpecificGroups/Coxeter.lean:24]: Minor nitpicks:
```suggestion
Coxeter group. The Coxeter group `W` is defined by the presentation
`W = ⟨s₁,s₂,...,sₙ | ∀ i j, (sᵢsⱼ)^mᵢⱼ = 1⟩`, where `1` is the identity element of `W`.
```
Or maybe 'A Coxeter group' ...? Also, is it 'defined' or 'determined' by the presentation?

File: Mathlib/GroupTheory/SpecificGroups/Coxeter.lean [hunk 22]
```diff
@@ -0,0 +1,461 @@
...
+
+end Relations
+
+end CoxeterGroup
+
+/-- The group presentation corresponding to a Coxeter matrix. -/
+def Matrix.CoxeterGroup := PresentedGroup <| CoxeterGroup.Relations.toSet M
+
+instance : Group (Matrix.CoxeterGroup M) := by
+  exact QuotientGroup.Quotient.group _
```
Comment (jcommelin) [inline Mathlib/GroupTheory/SpecificGroups/Coxeter.lean:120]:
```suggestion
instance : Group (Matrix.CoxeterGroup M) :=
  QuotientGroup.Quotient.group _
```

File: Mathlib/GroupTheory/SpecificGroups/Coxeter.lean [hunk 23]
```diff
@@ -0,0 +1,461 @@
...
+theorem of_apply (b : B) : of M b = PresentedGroup.of (rels := Relations.toSet M) b :=
+  rfl
+
+end CoxeterGroup
+
+/-- A Coxeter system `CoxeterSystem W` is a structure recording the isomorphism between
+a group `W` and the group presentation corresponding to a Coxeter matrix. Equivalently, this can
+be seen as a list of generators of `W` parameterized by the underlying type of `M`, which
+satisfy the relations of the Coxeter matrix `M`. -/
+structure CoxeterSystem (W : Type*) [Group W]  where
```
Comment (jcommelin) [inline Mathlib/GroupTheory/SpecificGroups/Coxeter.lean:138]: The current order of variables seems to be `M W`. Is that intentional? I would have expected `W M`, I think.

File: Mathlib/GroupTheory/SpecificGroups/Coxeter.lean [hunk 24]
```diff
@@ -0,0 +1,461 @@
...
+  /-- `CoxeterSystem.ofMulEquiv` constructs a Coxeter system given an equivalence with the group
+  presentation corresponding to a Coxeter matrix `M`. -/
+  ofMulEquiv ::
+    /-- `mulEquiv` is the isomorphism between the group `W` and the group presentation
+    corresponding to a Coxeter matrix `M`. -/
+    mulEquiv : W ≃* Matrix.CoxeterGroup M
+
+/-- Coxeter system of matrix `M` on the group `M.CoxeterGroup`. -/
+def Matrix.coxeterSystemCoxeterGroup : CoxeterSystem M M.CoxeterGroup :=
+  CoxeterSystem.ofMulEquiv (MulEquiv.refl _)
```
Comment (jcommelin) [inline Mathlib/GroupTheory/SpecificGroups/Coxeter.lean:148]: Untested, but I guess this should work
```suggestion
def Matrix.coxeterSystemCoxeterGroup : CoxeterSystem M M.CoxeterGroup where
  mulEquiv := .refl _
```

File: Mathlib/GroupTheory/SpecificGroups/Coxeter.lean [hunk 25]
```diff
@@ -0,0 +1,461 @@
...
+
+/-- A group is a Coxeter group if it is registered in a Coxeter system
+ for some Coxeter matrix `M`. -/
```
Comment (jcommelin) [inline Mathlib/GroupTheory/SpecificGroups/Coxeter.lean:151]:
```suggestion
/-- A group is a Coxeter group if it admits a Coxeter system
 for some Coxeter matrix `M`. -/
```

File: Mathlib/GroupTheory/SpecificGroups/Coxeter.lean [hunk 26]
```diff
@@ -0,0 +1,461 @@
...
+/-- A Coxeter system for `W` with Coxeter matrix `M` indexed by `B`, is associated to
+a map `B → W` recording the images of the indices. -/
+instance funLike : FunLike (CoxeterSystem M W) B (fun _ => W) where
+  coe cs := fun b => cs.mulEquiv.symm (.of b)
+  coe_injective' := by
+    rintro ⟨cs⟩ ⟨cs'⟩ hcs'
+    have H : (cs.symm : CoxeterGroup M →* W) = (cs'.symm : CoxeterGroup M →* W) := by
+      unfold CoxeterGroup
+      ext i; exact congr_fun hcs' i
+    have : cs.symm = cs'.symm := by ext x; exact FunLike.congr_fun H x
```
Comment (jcommelin) [inline Mathlib/GroupTheory/SpecificGroups/Coxeter.lean:173]: All the `.symm`s suggest flipping the direction of the `MulEquiv` in the definition above. But I have not yet read the rest of the file, so I don't know what the optimal direction is.

File: Mathlib/GroupTheory/SpecificGroups/Coxeter.lean [hunk 27]
```diff
@@ -0,0 +1,461 @@
...
+    rw [ofMulEquiv.injEq, ← MulEquiv.symm_symm cs, ← MulEquiv.symm_symm cs', this]
+
+@[simp]
+theorem mulEquiv_apply_coe (cs : CoxeterSystem M W) (b : B) :
+    cs.mulEquiv (cs b) = .of b :=
+  (MulEquiv.eq_symm_apply cs.mulEquiv).mp rfl
```
Comment (jcommelin) [inline Mathlib/GroupTheory/SpecificGroups/Coxeter.lean:179]:
```suggestion
  cs.mulEquiv.eq_symm_apply.mp rfl
```

File: Mathlib/GroupTheory/SpecificGroups/Coxeter.lean [hunk 28]
```diff
@@ -0,0 +1,461 @@
...
+/-- The map sending a Coxeter system to its associated map `B → W`. -/
+theorem ext' {c d : CoxeterSystem M W} (H : ⇑c = ⇑d) : c = d := FunLike.coe_injective H
+
+/-- Extensionality rule for Coxeter systems. -/
+theorem ext {c d : CoxeterSystem M W} (H : ∀ x, c x = d x) : c = d :=
+  ext' <| by ext; apply H
+
+/-- The canonical Coxeter system of the Coxeter group over `X`. -/
+def ofCoxeterGroup (X : Type*) (D : Matrix X X ℕ) : CoxeterSystem D (CoxeterGroup D) :=
+  ofMulEquiv (MulEquiv.refl _)
```
Comment (jcommelin) [inline Mathlib/GroupTheory/SpecificGroups/Coxeter.lean:190]: Isn't this a duplicate of `Matrix.coxeterSystemCoxeterGroup`?

File: Mathlib/GroupTheory/SpecificGroups/Coxeter.lean [hunk 29]
```diff
@@ -0,0 +1,461 @@
...
+    use (e hb); use (e b); aesop
+  · rw [Set.le_iff_subset]; intro hb'
+    simp only [Set.mem_range, Prod.exists, Function.uncurry_apply_pair, Set.mem_image,
+      forall_exists_index]
+    intro b1' b2' heq; rw [← heq]
+    use ((FreeGroup.freeGroupCongr e).symm hb')
+    exact ⟨by use (e.symm b1'); use (e.symm b2'); aesop, by aesop⟩
+
+/-- Coxeter groups of isomorphic types are isomorphic. -/
+def equivCoxeterGroup (e : B ≃ B') : CoxeterGroup M ≃* CoxeterGroup (reindex e e M) :=
```
Comment (jcommelin) [inline Mathlib/GroupTheory/SpecificGroups/Coxeter.lean:215]:
```suggestion
@[simps]
def equivCoxeterGroup (e : B ≃ B') : CoxeterGroup M ≃* CoxeterGroup (reindex e e M) :=
```
Hopefully this will autogenerate the simp-lemmas below.

File: Mathlib/GroupTheory/SpecificGroups/Coxeter.lean [hunk 30]
```diff
@@ -0,0 +1,461 @@
...
+    (equivCoxeterGroup e) (CoxeterGroup.of M b) = CoxeterGroup.of (reindex e e M) (e b) :=
+  rfl
+
+theorem equivCoxeterGroup_symm_apply_of (b' : B') (M : Matrix B B ℕ) (e : B ≃ B') :
+    (equivCoxeterGroup e).symm (CoxeterGroup.of (reindex e e M) b') =
+    CoxeterGroup.of M (e.symm b') :=
+  rfl
+
+/-- Reindex a Coxeter system through a bijection of the indexing sets. -/
+protected def reindex (cs : CoxeterSystem M W) (e : B ≃ B') :
```
Comment (jcommelin) [inline Mathlib/GroupTheory/SpecificGroups/Coxeter.lean:233]:
```suggestion
@[simps]
protected def reindex (cs : CoxeterSystem M W) (e : B ≃ B') :
```
Idem

File: Mathlib/GroupTheory/SpecificGroups/Coxeter.lean [hunk 31]
```diff
@@ -0,0 +1,461 @@
...
+    CoxeterSystem (reindex e e M) W :=
+  ofMulEquiv (cs.mulEquiv.trans (equivCoxeterGroup e))
+
+@[simp]
+theorem reindex_apply (cs : CoxeterSystem M W) (e : B ≃ B') (b' : B') :
+    cs.reindex e b' = cs (e.symm b') :=
+  rfl
+
+/-- Pushing a Coxeter system through a group isomorphism. -/
+protected def map (cs : CoxeterSystem M W) (e : W ≃* H) : CoxeterSystem M H :=
```
Comment (jcommelin) [inline Mathlib/GroupTheory/SpecificGroups/Coxeter.lean:243]:
```suggestion
@[simps]
protected def map (cs : CoxeterSystem M W) (e : W ≃* H) : CoxeterSystem M H :=
```

File: Mathlib/GroupTheory/SpecificGroups/Coxeter.lean [hunk 32]
```diff
@@ -0,0 +1,461 @@
...
+Coxeter group.  Coxeter group `W` is defined by the presentation
+`W = ⟨s₁,s₂,...,sₙ | ∀ i j, (sᵢsⱼ)^mᵢⱼ = 1⟩`, where `1` is the identity element of `W`.
+
+The finite Coxeter groups are classified as the four infinite families:
+
+* `Aₙ, Bₙ, Dₙ, I₂ₘ`
+
+And the exceptional systems:
+
+* `E₆, E₇, E₈, F₄, G₂, H₃, H₄`
```
Comment (jcommelin) [inline Mathlib/GroupTheory/SpecificGroups/Coxeter.lean:32]: This classification is not part of this PR, so I suggest
```suggestion
The finite Coxeter groups are classified (TODO) as the four infinite families:

* `Aₙ, Bₙ, Dₙ, I₂ₘ`

And the exceptional systems:

* `E₆, E₇, E₈, F₄, G₂, H₃, H₄`
```

File: Mathlib/GroupTheory/SpecificGroups/Coxeter.lean (hunk 21 above)
Comment (newell) [reply Mathlib/GroupTheory/SpecificGroups/Coxeter.lean:24]: I like 'A Coxeter group' and I would agree that using 'determined' is more accurate since a presentation is not unique.  I like being as correct as possible so thanks for the nits!

File: Mathlib/GroupTheory/SpecificGroups/Coxeter.lean (hunk 29 above)
Comment (newell) [reply Mathlib/GroupTheory/SpecificGroups/Coxeter.lean:215]: It wants @[simps!] so will use that.

File: Mathlib/GroupTheory/SpecificGroups/Coxeter.lean (hunk 28 above)
Comment (newell) [reply Mathlib/GroupTheory/SpecificGroups/Coxeter.lean:190]: Yes it is, I am going to remove the former (while keeping your change from there)

File: Mathlib/GroupTheory/SpecificGroups/Coxeter.lean (hunk 26 above)
Comment (newell) [reply Mathlib/GroupTheory/SpecificGroups/Coxeter.lean:173]: This is a good question.  For context, I followed the direction of `FreeGroupBasis` in `Mathlib.GroupTheory.FreeGroup.IsFreeGroup`.

File: Mathlib/GroupTheory/SpecificGroups/Coxeter.lean (hunk 23 above)
Comment (newell) [reply Mathlib/GroupTheory/SpecificGroups/Coxeter.lean:138]: I was just allowing lean to set this since I am not passing in `M` explicitly here.  Also, since `M` is associated with the relations I would think it comes before the group that is generated by these relations (but maybe my thinking is backwards here?)

Out of curioiusity, why would have you expected `W M`?

File: Mathlib/GroupTheory/SpecificGroups/Coxeter.lean [hunk 33]
```diff
@@ -0,0 +1,456 @@
...
+      unfold CoxeterGroup
+      ext i; exact congr_fun hcs' i
+    have : cs.symm = cs'.symm := by ext x; exact FunLike.congr_fun H x
+    rw [ofMulEquiv.injEq, ← MulEquiv.symm_symm cs, ← MulEquiv.symm_symm cs', this]
+
+@[simp]
+theorem mulEquiv_apply_coe (cs : CoxeterSystem M W) (b : B) : cs.mulEquiv (cs b) = .of b :=
+  cs.mulEquiv.eq_symm_apply.mp rfl
+
+/-- The map sending a Coxeter system to its associated map `B → W`. -/
```
Comment (joelriou) [inline Mathlib/GroupTheory/SpecificGroups/Coxeter.lean:173]:
```suggestion
/-- The map sending a Coxeter system to its associated map `B → W` is injective. -/
```

**Comment by joelriou** [comment]
In the basic API for Coxeter systems, I would think you could include this lemma:
```lean
@[simp]
lemma apply_mul_apply_pow (cs : CoxeterSystem M W) (b₁ b₂ : B) :
    (cs b₁ * cs b₂) ^ M b₁ b₂ = 1 := sorry
```

File: Mathlib/GroupTheory/SpecificGroups/Coxeter.lean [hunk 34]
```diff
@@ -0,0 +1,456 @@
...
+
+The corresponding Coxeter-Dynkin diagram is:
+```
+    o --- o --- o ⬝ ⬝ ⬝ ⬝ o --- o
+```
+-/
+abbrev Aₙ : Matrix (Fin n) (Fin n) ℕ :=
+  Matrix.of fun i j : Fin n =>
+    if i = j then 1
+      else (if i = n - 1 ∨ j = n - 1 then 2 else 3)
```
Comment (joelriou) [inline Mathlib/GroupTheory/SpecificGroups/Coxeter.lean:262]: Could you double check the definition of all the matrices, because it seems to me that some of these are wrong. For example, for $A_n$, the coefficient $(i,j)$ for i different from $j$ is either $3$ when $j = i\pm 1$ and $2$ otherwise?

File: Mathlib/GroupTheory/SpecificGroups/Coxeter.lean [hunk 35]
```diff
@@ -0,0 +1,456 @@
...
+
+noncomputable section
+
+variable {B : Type*} [DecidableEq B]
+
+variable (M : Matrix B B ℕ)
+
+/-- A matrix `IsCoxeter` if it is a symmetric matrix with diagonal entries equal to one
+and off-diagonal entries distinct from one. -/
+class Matrix.IsCoxeter : Prop where
```
Comment (eric-wieser) [inline Mathlib/GroupTheory/SpecificGroups/Coxeter.lean:93]: Is there a reason this is a `class` and not a `structure`? If so, can you add it to the docstring?

Comment (newell) [reply Mathlib/GroupTheory/SpecificGroups/Coxeter.lean:93]: Not that I know and I actually don't see too many future places where this would be needed (Lean's type inference system) so will change it to a structure.

File: Mathlib/GroupTheory/SpecificGroups/Coxeter.lean (hunk 34 above)
Comment (newell) [reply Mathlib/GroupTheory/SpecificGroups/Coxeter.lean:262]: I updated the definitions for the infinite families.  I *think* they are correct now but please take another look if you can.

**Comment by newell** [comment]
> In the basic API for Coxeter systems, I would think you could include this lemma:
> 
> ```lean
> @[simp]
> lemma apply_mul_apply_pow (cs : CoxeterSystem M W) (b₁ b₂ : B) :
>     (cs b₁ * cs b₂) ^ M b₁ b₂ = 1 := sorry
> ```

I would rather wait for a future PR for this one.

File: Mathlib/GroupTheory/SpecificGroups/Coxeter.lean [hunk 36]
```diff
@@ -0,0 +1,456 @@
...
+
+The corresponding Coxeter-Dynkin diagram is:
+```
+    o --- o --- o ⬝ ⬝ ⬝ ⬝ o --- o
+```
+-/
+abbrev Aₙ [NeZero n] : Matrix (Fin n) (Fin n) ℕ :=
+  Matrix.of fun i j : Fin n =>
+    if i = j then 1
+      else (if i - j = 1 ∨ j - i = 1 then 3 else 2)
```
Comment (joelriou) [inline Mathlib/GroupTheory/SpecificGroups/Coxeter.lean:262]: This should be correct, but in mathlib, we try to refrain using the difference of natural numbers. Instead of `i - j = 1`, I think that `(j : ℕ) + 1 = i` would be a better phrasing of this condition.

Comment (eric-wieser) [reply Mathlib/GroupTheory/SpecificGroups/Coxeter.lean:262]: This is not natural subtraction, but `Fin` (wraparound) subtraction; so when `n = 4, `0 - 3 = 1` is true, which is possibly not what is needed here

Comment (joelriou) [reply Mathlib/GroupTheory/SpecificGroups/Coxeter.lean]: I still think `(j : ℕ) + 1 = i` is a better phrasing.

Comment (newell) [reply Mathlib/GroupTheory/SpecificGroups/Coxeter.lean]: > I still think `(j : ℕ) + 1 = i` is a better phrasing.

At first I didn't really see the big difference but since it is possible to keep it within the natural numbers without coercion to the integers, might as well (since Fin n seems closer to N than Z).  If there are any other good reasons to do it this way over coercion to the integers (well the code is shorter as well which is nicer), please let me know as I am curious.  Branch has been updated.

File: Mathlib/GroupTheory/SpecificGroups/Coxeter.lean (hunk 23 above)
Comment (jcommelin) [reply Mathlib/GroupTheory/SpecificGroups/Coxeter.lean:142]: In analyogy with the `(W,S)` that you often see in the literature for Coxeter groups. But it's not very important, so feel free to keep `M W`.

File: Mathlib/GroupTheory/SpecificGroups/Coxeter.lean (hunk 26 above)
Comment (jcommelin) [reply Mathlib/GroupTheory/SpecificGroups/Coxeter.lean:172]: Ok, let's keep it like this for now. But I can imagine we might want to flip later (maybe in both places).

**Review by jcommelin — COMMENTED** [review]
Besides my one comment on the module docstring, I think this looks good now.

So I suggest we merge this, and then more stuff can be done in follow-ups :smile: 

bors d+

**Comment by newell** [comment]
Thanks to all the reviewers that helped me with this PR!  Your guidance is greatly appreciated!

bors r+

**Comment by ocfnash** [comment]
This is failing on bors, please merge master and fix the errors.

bors r-
